US07772246B2
Preparation of 3-{4-[3-(5-Amino-6-methoxy-pyrazin-2-yl)-1-(2,2-difluoro-ethyl)-1H-pyrazol-4-yl]-pyrimidin-2-ylamino}-propionitrile (B-79)
To a solution of the crude di-tert-butyl[3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazin-2-yl]imidodicarbonate B-79-3 (0.6 mmol) in dimethoxyethane (2.5 mL) was added 3-{4-[1-(2,2-Difluoro-ethyl)-3-iodo-1H-pyrazol-4-yl]-pyrimidin-2-ylamino}-propionitrile B-33-3 (150 mg, 0.37 mmol) and Cesium Fluoride (1.1 mL of a 1M aqueous solution, 1.1 mmol). The resulting mixture was deoxygenated with a nitrogen bubbler for 5 min and then 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (15 mg, 0.019 mmol) was added. The mixture was then heated in an 80° C. oil bath for 20 hours. LCMS indicated the iodide had been completely consumed. The mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organics were dried over magnesium sulfate and reduced to minimum volume. The residue was taken up in dimethoxyethane (3 mL) and then heated at 170° C. in the microwave for 25 minutes to thermolyze the tert-butoxycarbonyl groups. The resulting dark mixture was filtered through a 0.45μ filter and the filtrate reduced to minimum volume. The residue was purified by HPLC to give 59 mg (37%) of B-79 as a fluffy white solid after lyophilization of the desired fractions. 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 8.17 (s, 1H), 8.15 (d, J=5.05 Hz, 1H), 7.83 (s, 1H), 6.72 (d, J=5.31 Hz, 1H), 6.27 (tt, J=54.98, 3.76 Hz, 1H), 5.91 (br.t, J=5.18 Hz, 1H), 5.34 (br. s., 2H), 4.59 (td, J=14.65, 3.79 Hz, 2H), 3.76 (s, 3H), 3.55 (q, J=6.23 Hz, 2H), 2.64 (t, J=6.44 Hz, 2H)

reactant | di-tert-butyl[3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazin-2-yl]imidodicarbonate | 0.6 mmol | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(N=C1OC)B1OC(C(O1)(C)C)(C)C | C21H34BN3O7
reactant | 3-{4-[1-(2,2-Difluoro-ethyl)-3-iodo-1H-pyrazol-4-yl]-pyrimidin-2-ylamino}-propionitrile | 0.37 mmol, 150 mg | FC(CN1N=C(C(=C1)C1=NC(=NC=C1)NCCC#N)I)F | C12H11F2IN6
reactant | Cesium Fluoride | [F-].[Cs+]
reactant | iodide | [I-]
solvent | dimethoxyethane | 2.5 mL | C(OC)COC | C4H10O2
product | 3-{4-[3-(5-Amino-6-methoxy-pyrazin-2-yl)-1-(2,2-difluoro-ethyl)-1H-pyrazol-4-yl]-pyrimidin-2-ylamino}-propionitrile | NC=1N=CC(=NC1OC)C1=NN(C=C1C1=NC(=NC=C1)NCCC#N)CC(F)F | C17H17F2N9O
